US04588733
A solution of 4.0 g of 3-bromo-5-chloro-2-methoxypyridine in 75 ml of anhydrous ether was cooled to -70° C. under nitrogen. The resulting slurry was stirred rapidly and there was added 12.0 ml of 1.65M n-butyllithium/hexane dropwise over a period of about 5 minutes while keeping the temperature below -70° C. The reaction mixture became homogeneous and, after 15 minutes, a solution of 3.0 g of 4-chlorocinnamaldehyde in 35 ml of ether was added dropwise while keeping the temperature below -60° C. The cold mixture was then poured into aqueous saturated sodium bicarbonate solution and the resulting mixture was extracted with ether. The ether layer was washed with aqueous saturated sodium chloride solution, dried over potassium carbonate and concentrated under reduced pressure to give a white solid. This solid was recrystallized from a mixture of ethyl acetate/hexane to give (E)-5-chloro-α-[2-(4-chlorophenyl)ethenyl]-2-methoxy-3-pyridinemethanol as white needles melting at about 135°-139.5° C.

reactant | 3-bromo-5-chloro-2-methoxypyridine | 4.0 g | BrC=1C(=NC=C(C1)Cl)OC | C6H5BrClNO
reactant | n-butyllithium hexane | 1.65M, 12.0 ml | C(CCC)[Li].CCCCCC
reactant | 4-chlorocinnamaldehyde | 3.0 g | ClC1=CC=C(C=CC=O)C=C1 | C9H7ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ether | 75 ml | CCOCC | C4H10O
solvent | ether | 35 ml | CCOCC | C4H10O
product | (E)-5-chloro-α-[2-(4-chlorophenyl)ethenyl]-2-methoxy-3-pyridinemethanol | ClC=1C=C(C(=NC1)OC)C(O)\C=C\C1=CC=C(C=C1)Cl | C15H13Cl2NO2
